US05856564
Using 400 mg of 2-phenyl-4'-[(5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl]benzanilide and 400 mg of 3-pyridylthioacetamide hydrochloride, the procedure of Example 5 was repeated to obtain 100 mg of 4'-[[2-(3-pyridylmethyl)-5,6-dihydro-4H-thiazolof5,4-d][1]benzazepin-6-yl)carbonyl]-2-phenylbenzanilide hydrochloride as an amorphous solid.

reactant | 2-phenyl-4'-[(5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl]benzanilide | 400 mg | C1(=CC=CC=C1)C1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2CCCC(C3=C2C=CC=C3)=O)C=CC=C1 | C30H24N2O3
reactant | 3-pyridylthioacetamide hydrochloride | 400 mg | Cl.N1=CC(=CC=C1)CC(=S)N
product | 2-phenylbenzanilide hydrochloride | Cl.C1(=CC=CC=C1)C1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | InChI=1S/C19H15NO.ClH/c21-19(20-16-11-5-2-6-12-16)18-14-8-7-13-17(18)15-9-3-1-4-10-15;/h1-14H,(H,20,21);1H
